US04309566
(Aminocarbonyl)Methyl 2,6-Difluorobenzoate
This compound was prepared in the manner of Example I, using 10.0 grams (0.063 mole) of 2,6-difluorobenzoic acid, 4.2 grams (0.063 mole) of potassium hydroxide, 5.9 grams (0.063 mole) of 2-chloroacetamide, and 1.7 grams of 1,4,7,10,13,16-hexaoxacyclooctadecene in 250 ml of dry toluene. The crude product was recrystallized once with ethyl acetate, then with ethyl acetate-hexane, using decolorizing carbon. The yield was 5.2 grams of (aminocarbonyl)methyl 2,6-difluorobenzoate; mp 108.5°-110°. The ir and the nmr spectra were consistent with the proposed structure.

reactant | 2,6-difluorobenzoic acid | 0.063 mole, 10.0 grams | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | potassium hydroxide | 0.063 mole, 4.2 grams | [OH-].[K+]
reactant | 2-chloroacetamide | 0.063 mole, 5.9 grams | ClCC(=O)N | C2H4ClNO
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecene | 1.7 grams | O1C=COCCOCCOCCOCCOCC1 | C12H22O6
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (Aminocarbonyl)Methyl 2,6-Difluorobenzoate | FC1=C(C(=O)OCC(=O)N)C(=CC=C1)F | C9H7F2NO3
